US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methyl-2-(trifluoromethyl)-3-furancarboxamide
Using 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid (133.6 mg, 0.668 mmol), N,N-dimethylformamide (1 drop), oxalyl chloride (75 μL, 0.868 mmol), N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (159 mg, 0.514 mmol), triethylamine (156 mg, 1.54 mmol) and tetrahydrofuran (15 mL) as starting materials and in the same manner as in Example 109, the title compound (145 mg, 58%) was obtained as a white powder.

reactant | 5-methyl-2-(trifluoromethyl)-3-furancarboxylic acid | 0.668 mmol, 133.6 mg | CC1=CC(=C(O1)C(F)(F)F)C(=O)O | C7H5F3O3
reactant | oxalyl chloride | 0.868 mmol, 75 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.514 mmol, 159 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | triethylamine | 1.54 mmol, 156 mg | C(C)N(CC)CC | C6H15N
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-5-methyl-2-(trifluoromethyl)-3-furancarboxamide | 145 mg, 58% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=C(OC(=C2)C)C(F)(F)F)C1 | C23H18F3N5O4
